US07259183B2
5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-hydroxy-phenyl)-ethyl]-amide
200 mg of 5-chloro-1H-indole-7-carboxylic acid [2-(3-benzyloxy-phenyl)-ethyl]-(4-tert-butyl-benzyl)-amide (0.36 mmol) were dissolved in 20 ml EtOAc and hydrogenated for 5 h over 20 mg Pd/C 10%. After removal of the catalyst by filtration, the solution was concentrated in vacuo and the residue purified by column chromatography (8 g silicagel, heptane/EtOAc 2:1) leading to 136 mg of 5-chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-hydroxy-phenyl)-ethyl]-amide (79%) as a light yellow solid. MS (ISP) 461.4 (M+H)+.

reactant | 5-chloro-1H-indole-7-carboxylic acid [2-(3-benzyloxy-phenyl)-ethyl]-(4-tert-butyl-benzyl)-amide | 0.36 mmol, 200 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCN(C(=O)C=1C=C(C=C2C=CNC12)Cl)CC1=CC=C(C=C1)C(C)(C)C | C35H35ClN2O2
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-hydroxy-phenyl)-ethyl]-amide | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=C(C=C3C=CNC23)Cl)CCC2=CC(=CC=C2)O)C=C1 | C28H29ClN2O2
